US07122571B2
4-Methylbenzaldehyde-4-sulfamylphenylhydrazone
A solution of 4-methylbenzaldehyde (5 mmol) and 4-sulfamyl-phenylhydrazine hydrochloride was subjected to the General Procedure. The title compound, melting point 216–218° C., was obtained in 45% yield.

reactant | 4-methylbenzaldehyde | 5 mmol | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 4-sulfamyl-phenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-Methylbenzaldehyde-4-sulfamylphenylhydrazone | 45% yield | S(N)(=O)(=O)C1=CC=C(C=C1)NN=CC1=CC=C(C=C1)C | C14H15N3O2S
